US07696223B2
a) 4-Methyl-2-(methyl-phenyl-amino)-thiazole-5-carboxylic acid ethyl ester
A mixture of 1-methyl-1-phenyl-thiourea (5.03 g, 30.3 mmol) and 2-chloro-3-oxo-butyric acid ethyl ester (4.4 mL, 31.8 mmol) in ethanol (18 mL) was refluxed for 20 h before it was cooled to room temperature and concentrated in vacuo. It was partitioned between ethyl acetate and saturated sodium bicarbonate, the organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a brown solid (7.39 g): MS: (+) m/z 277.0 (M+1).

reactant | 1-methyl-1-phenyl-thiourea | 30.3 mmol, 5.03 g | CN(C(=S)N)C1=CC=CC=C1 | C8H10N2S
reactant | 2-chloro-3-oxo-butyric acid ethyl ester | 31.8 mmol, 4.4 mL | C(C)OC(C(C(C)=O)Cl)=O | C6H9ClO3
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | 4-Methyl-2-(methyl-phenyl-amino)-thiazole-5-carboxylic acid ethyl ester | 7.39 g | C(C)OC(=O)C1=C(N=C(S1)N(C1=CC=CC=C1)C)C | C14H16N2O2S
